US09227919B2
Step-3: (R)-3′,4′-Dihydro-2′H-spiro[[1,3]dioxolane-2,1′-naphthalene]-3′-carbaldehyde
To a stirred solution of (R)-methyl 3′,4′-dihydro-2′H-spiro[[1,3]dioxolane-2,1′-naphthalene]-3′-carboxylate (4.7 g, 18.93 mmol) in toluene (50 mL) and DCM (12.50 mL) to these solution of DIBAL-H (22.72 mL, 22.72 mmol) was added drop-wise at −78° C. under argon, and the mixture was stirred for 2 h at this temperature. Reaction mixture was quenched with aqueous NH4Cl solution at −78° C. and allowed to RT, filtered through celite, diluted with water (25 mL) and extracted with DCM (2×25 mL), dried over Na2SO4, filtered and concentrated to get the title compound (4.1 g) as an oil.

reactant | (R)-methyl 3′,4′-dihydro-2′H-spiro[[1,3]dioxolane-2,1′-naphthalene]-3′-carboxylate | 18.93 mmol, 4.7 g | C12(C[C@@H](CC3=CC=CC=C13)C(=O)OC)OCCO2 | C14H16O4
reactant | DIBAL-H | 22.72 mmol, 22.72 mL | CC(C)C[AlH]CC(C)C
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | DCM | 12.50 mL | C(Cl)Cl | CH2Cl2
product | (R)-3′,4′-Dihydro-2′H-spiro[[1,3]dioxolane-2,1′-naphthalene]-3′-carbaldehyde | 4.1 g | C12(C[C@@H](CC3=CC=CC=C13)C=O)OCCO2 | C13H14O3
